US06974817B2
(5-Chloro-2-methoxy-phenyl)-acetonitrile
To a solution of (5-chloro-2-methoxy-phenyl)-methanol (17.1 g, 99.1 mmol) in methylene chloride (100 mL) was added thionyl chloride (14.5 mL, 198 mmol). The reaction was stirred at reflux for 3 hours, cooled to room temperature and concentrated in vacuo. The crude product was dissolved in methylene chloride and washed with saturated aqueous sodium hydrogen carbonate then dried over magnesium sulfate. Concentration in vacuo gave 4-chloro-2-chloromethyl-1-methoxy-benzene (18.4 g). To a solution of 4-chloro-2-chloromethyl-1-methoxy-benzene (18.4 g, 96.4 mmol) in acetonitrile (100 mL) was added potassium cyanide (12.5 g, 193 mmol) and 18-crown-6 (2.54 g, 9.64 mmol). The reaction was stirred 12 hours at ambient temperature, diluted with ethyl acetate and washed with aqueous sodium hydrogen carbonate. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by passing it through a pad of silica gel, eluting with methylene chloride to give the title compound (17.2 g).

reactant | 4-chloro-2-chloromethyl-1-methoxy-benzene | 96.4 mmol, 18.4 g | ClC1=CC(=C(C=C1)OC)CCl | C8H8Cl2O
reactant | potassium cyanide | 193 mmol, 12.5 g | [C-]#N.[K+]
reactant | 18-crown-6 | 9.64 mmol, 2.54 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-2-methoxy-phenyl)-acetonitrile | 17.2 g | ClC=1C=CC(=C(C1)CC#N)OC | C9H8ClNO
